US04921524
Preparation of 3-hydroxy-2-propionyl-4-(4-methyl-3-nitrophenyl)cyclohex-2-ene-1-one
3-hydroxy-2-propionyl-4-(4-methylphenyl)cyclohex-2-ene-1-one (1.2 g) in acetic anhydride (3 g) was cooled to 5° C. A solution of fuming nitric acid (0.42 g) in glacial acetic acid (0.3 g) and acetic anhydride (0.3 g) was added dropwise over a period of 5 minutes. After stirring for a further 1 hour at 5° C. and 2 hours at room temperature, the mixture was poured onto ice-water (100 ml). The aqueous solution was extracted with diethyl ether. The extracts were washed with aqueous sodium bicarbonate, dried over magnesium sulphate, filtered and the ether evaporated in vacouo. The residue was purified on a silica gel column using chloroform as eluant to give the title compound (0.5 g) as a yellow oil.

reactant | 3-hydroxy-2-propionyl-4-(4-methylphenyl)cyclohex-2-ene-1-one | 1.2 g | OC1=C(C(CCC1C1=CC=C(C=C1)C)=O)C(CC)=O | C16H18O3
reactant | nitric acid | 0.42 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 0.3 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3-hydroxy-2-propionyl-4-(4-methyl-3-nitrophenyl)cyclohex-2-ene-1-one | 0.5 g | OC1=C(C(CCC1C1=CC(=C(C=C1)C)[N+](=O)[O-])=O)C(CC)=O | C16H17NO5
